US06589984B1
A solution of methyl 2-methyl-3-oxopentanoate (13.05 g) in THF (100 ml) was added to a suspension of NaH (3.80 g) in THF (100 ml) at 0° C., and after stirring at 0° C. for 15 minutes, 1.63 M n-BuLi (58 ml) was added and the mixture was stirred at 0° C. for 20 minutes to prepare a light yellow dienolate. The reaction solution was cooled to −78° C., a solution of ethyl 2-(benzyloxy)acetate (17.56 g) in THF (30 ml) was added, and the mixture was stirred at −78° C. for 5 minutes and then at 0° C. for one hour. Diluted hydrochloric acid was poured into the reaction solution for quenching, and extraction was performed with AcOEt at near neutral. The organic layer was rinsed with saturated saline and dried with MgSO4, and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=5/1→3/1) to obtain methyl 6-benzyloxy-2,4-dimethyl-3,5-dioxohexanoate.

reactant | methyl 2-methyl-3-oxopentanoate | 13.05 g | CC(C(=O)OC)C(CC)=O | C7H12O3
reactant | NaH | 3.80 g | [H-].[Na+]
reactant | n-BuLi | 1.63 M, 58 ml | [Li]CCCC
reactant | ethyl 2-(benzyloxy)acetate | 17.56 g | C(C1=CC=CC=C1)OCC(=O)OCC | C11H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | methyl 6-benzyloxy-2,4-dimethyl-3,5-dioxohexanoate | C(C1=CC=CC=C1)OCC(C(C(C(C(=O)OC)C)=O)C)=O | C16H20O5
